US09227985B2
Step 5. 8-Bromo-6-fluoro-3-pyridin-3-yl-3,4-dihydro-2H-1,4-benzoxazin-5-amine
Sodium tetrahydroborate (44 mg, 1.2 mmol) was added to a solution of 8-bromo-6-fluoro-3-pyridin-3-yl-2H-1,4-benzoxazin-5-amine (190 mg, 0.58 mmol) in ethanol (4 mL) and water (1 mL), and heated at 90° C. for 15 minutes. The mixture was concentrated, diluted with water, and extracted with ethyl acetate. The organic solvents were evaporated to afford the product. LCMS calc. for C13H12BrFN3O (M+H)+: m/z=324.0. found: 324.0.

reactant | Sodium tetrahydroborate | 1.2 mmol, 44 mg | [BH4-].[Na+]
reactant | 8-bromo-6-fluoro-3-pyridin-3-yl-2H-1,4-benzoxazin-5-amine | 0.58 mmol, 190 mg | BrC=1C=C(C(=C2N=C(COC21)C=2C=NC=CC2)N)F | C13H9BrFN3O
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | 8-Bromo-6-fluoro-3-pyridin-3-yl-3,4-dihydro-2H-1,4-benzoxazin-5-amine | BrC=1C=C(C(=C2NC(COC21)C=2C=NC=CC2)N)F | C13H11BrFN3O
